US03956323
8.2 g of benzyl-(RS)-2-(isonicotinoyloxy)-isocaproate were hydrogenated in 50 ml of alcohol after the addition of 800 mg. of palladium-on-charcoal (5%) until the theoretical amount of hydrogen had been taken up. The catalyst was then filtered off and the filtrate evaporated under reduced pressure at 45°. The resulting oil was dissolved in excess sodium bicarbonate solution and extracted twice with 20 ml portions of ether and the bicarbonate solution adjusted to pH 2.5 with 3-N hydrochloric acid. The acidic solution was extracted twice with 70 ml portions of ethyl acetate. After being washed twice with 20 ml portions of 5% sodium chloride solution, the ethyl acetate solution was dried with magnesium sulphate and evaporated under reduced pressure at 45°. The resulting oil was crystallized from ether/petroleum ether to yield (RS)-2-(isonicotinoyloxy)-isocaproic acid; mp 98°-100°.

reactant | benzyl-(RS)-2-(isonicotinoyloxy)-isocaproate | 8.2 g | C(C1=CC=CC=C1)OC(C(CC(C)C)OC(C1=CC=NC=C1)=O)=O | C19H21NO4
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-charcoal | [Pd] | Pd
product | (RS)-2-(isonicotinoyloxy)-isocaproic acid | C(C1=CC=NC=C1)(=O)OC(C(=O)O)CC(C)C | C12H15NO4
